US07622583B2
N-[5-Chloro-2-(2-fluoro-6-methoxy-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (180 mg, 0.313mmol) was magnetically stirred in water (1.0 mL) and 4N HCl in dioxane (2.5 mL) and heated at 85° C. for 7 h. The reaction was subsequently concentrated and the residue was neutralized (pH 7) with aqueous sodium bicarbonate and extracted with EtOAc (3×80 mL). The extracts were dried (MgSO4), filtered, and chromatographed on silica gel using EtOAc-hexane (gradient, 0:100 to 50:50) to provide N-[5-chloro-2-(2-fluoro-6-methoxy-benzoyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide: MS m/z 489.1 (M+H); 511.0 (M+Na).

reactant | N-[5-Chloro-2-(2-fluoro-6-methoxy-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.313mmol, 180 mg | ClC=1C=C(C(=NC1)C(C1=C(C=CC=C1OC)F)=O)N(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)COC | C22H17ClF4N2O5S
reactant | HCl | 4N | Cl | ClH
solvent | water | 1.0 mL | O | H2O
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | N-[5-chloro-2-(2-fluoro-6-methoxy-benzoyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | ClC=1C=C(C(=NC1)C(C1=C(C=CC=C1OC)F)=O)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C20H13ClF4N2O4S
